US09376387B2
To a solution of 1-benzylpyridinium-3-carboxamide iodide (1 g, 3.41 mmol) in H2O (15 mL) was added sodium carbonate (1.44 g, 13.64 mmol) and sodium dithionite (2.65 g, 12.96 mmol) at room temperature. The resulting solution was stirred under nitrogen in darkness for 15 mn. The reaction mixture was then extracted with dichloromethane. The combined organic phases were dried over Na2SO4, filtered and evaporated under reduced pressure at room temperature to afford N-benzyl-1,4-dihydronicotinamide (BNAH) (0.530 g, 73%).

reactant | 1-benzylpyridinium-3-carboxamide iodide | 3.41 mmol, 1 g | [I-].C(C1=CC=CC=C1)[N+]1=CC(=CC=C1)C(=O)N
reactant | sodium carbonate | 13.64 mmol, 1.44 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium dithionite | 12.96 mmol, 2.65 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | H2O | 15 mL | O | H2O
product | N-benzyl-1,4-dihydronicotinamide | 0.530 g, 73% | C(C1=CC=CC=C1)NC(C1=CNC=CC1)=O | C13H14N2O
